US08084448B2
A. 2-Benzyloxy-4-methoxy-1-nitrobenzene
A mixture of 2-hydroxy-4-methoxy-1-nitrobenzene (520 mg, 3.08 mmol), benzyl bromide (522 mg, 3.08 mmol) and potassium carbonate (637 mg, 4.61 mmol) in DMF (3 mL) is stirred at 65° C. for 18 h. The mixture is poured into water and the mixture extracted with EtOAc. The organic phase is washed with water (3×) and brine (1×) and is dried over sodium sulfate. The solvent is removed under reduced pressure to give the title compound as an oil.

reactant | 2-hydroxy-4-methoxy-1-nitrobenzene | 3.08 mmol, 520 mg | OC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C7H7NO4
reactant | benzyl bromide | 3.08 mmol, 522 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 4.61 mmol, 637 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxy-4-methoxy-1-nitrobenzene | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C14H13NO4
